US07582775B2
Preparation of 6-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-2-carboxylic acid
A solution of 6-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid (102 mg, 0.226 mmol) in THF (5.0 mL) at RT is treated with NaBH4 (17 mg, 0.451 mmol). The resulting mixture is stirred for 4 h. The reaction is quenched with HCl (1.0 N, 1.0 mL) and extracted with EtOAc (2×20 mL). The organic layer is dried over Na2SO4 and concentrated to afford the title compound (90 mg, 88%).

reactant | 6-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid | 0.226 mmol, 102 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(SC(=C2)C(=O)O)C1)C)=O)(C)C | C27H32O4S
reactant | NaBH4 | 0.451 mmol, 17 mg | [BH4-].[Na+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 6-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-2-carboxylic acid | 90 mg, 88% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=CC2=C(SC(=C2)C(=O)O)C1 | C27H34O4S
